US03992535
A suspension of 10.9 gm (0.34 mol) of 2-ethyl-2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal in 200 ml of methanol and 200 ml of aqueous 10% hydrochloric acid was refluxed for 1 hour. Then, the mixture was evaporated to dryness in vacuo, the residue was taken up in methylene chloride, and the solution was neutralized and again evaporated to dryness. Recrystallization of the residue from ethanol yielded 7.9 gm (84% of theory) of 2-ethyl-2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide, m.p. 146°-147° C.

reactant | 2-ethyl-2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal | 0.34 mol, 10.9 gm | C1COC2(CN(S(C3=C2C=CC2=CC=CC=C23)(=O)=O)CC)O1 | C16H17NO4S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 2-ethyl-2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide | 7.9 gm, 84% | C(C)N1S(C2=C(C(C1)=O)C=CC1=CC=CC=C12)(=O)=O | C14H13NO3S
